US05786356
Tetralone-6-carboxylic acid, ethylene ketal (395 mg, 2.07 mmol) was co-dissolved in CH2Cl2 (50 mL) with N-hydroxysuccinimide (260 mg, 2.76 mmol) at 0° C. and treated with a slight excess of 1,3-dicyclohexylcarbodiimide (502 mg, 2.50 mmol). The mixture was allowed to warm to ambient temperature over 30 minutes, during which time a fine white precipitate formed. Ammonium chloride (333 mg, 6.23 mmol) and triethylamine (1.58 mL, 12.5 mmol, d=0.797) were added. The solution was stirred at ambient temperature for 16 hours. The suspended urea and salts were filtered away and the solution concentrated in vacuo to a colorless oil. The oil was applied to a silica flash chromatography column and eluted with 50-100% EtOAc in hexanes to yield 250 mg (64%) of 2-tetralone-6-carboxamide, ethylene ketal as a white solid, clean by NMR, TLC. 2-Tetralone-6-carboxamide ethylene ketal (250 mg, 1.07 mmol) and catalytic p-toluenesulfonic acid were stirred in acetone (50 mL) at ambient temperature for 48 hours. The volatiles were removed in vacuo and the residue triturated in ethyl acetate. The solids were filtered, washed and dried to yield 77.5 mg (38%) of 2-Tetralone-6-carboxamide as a white powder, pure by NMR, TLC. MS.

reactant | Tetralone-6-carboxylic acid | C1(CCCC2=CC(=CC=C12)C(=O)O)=O | C11H10O3
reactant | N-hydroxysuccinimide | 2.76 mmol, 260 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.50 mmol, 502 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Ammonium chloride | 6.23 mmol, 333 mg | [Cl-].[NH4+]
reactant | triethylamine | 12.5 mmol, 1.58 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-tetralone-6-carboxamide | 250 mg, 64% | C1C(CCC2=CC(=CC=C12)C(=O)N)=O | C11H11NO2
